US08957068B2
To a microwave vial containing a stir bar was added (R)—N—((S)-1-(4-bromo-2-fluorophenyl)ethyl)-2-methylpropane-2-sulfinamide (100 mg, 0.31 mmol) followed by the addition of potassium cyclopropyltrifluoroborate (459 mg, 3.10 mmol), cesium carbonate (506 mg, 1.55 mmol) and Pd(OAc)2 (7 mg, 0.03 mmol) and di(1-adamantyl)-n-butylphosphine (22 mg, 0.06 mmol), toluene (2.6 mL) and finally water (0.5 mL). The vial capped and heated by microwave irradiation for 20 min at 100° C., followed by thermal heating at 100° C. in a preheated aluminum tray for 18 hours. The reaction mixture was diluted with a saturated solution of NH4Cl. The aqueous mixture extracted with EtOAc. Organic phases combined, washed with water, brine, dried (Na2SO4), filtered and concentrated to afford a yellow crystalline of (R)—N—((S)-1-(4-cyclopropyl-2-fluorophenyl)ethyl)-2-methylpropane-2-sulfinamide (116 mg, 0.33 mmol, 106% yield). LCMS m/z 284.0 (M+H)+, Rt 0.90 min.

reactant | (R)—N—((S)-1-(4-bromo-2-fluorophenyl)ethyl)-2-methylpropane-2-sulfinamide | 0.31 mmol, 100 mg | BrC1=CC(=C(C=C1)[C@H](C)N[S@](=O)C(C)(C)C)F | C12H17BrFNOS
reactant | potassium cyclopropyltrifluoroborate | 3.10 mmol, 459 mg | C1(CC1)[B-](F)(F)F.[K+]
reactant | cesium carbonate | 1.55 mmol, 506 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | di(1-adamantyl)-n-butylphosphine | 0.06 mmol, 22 mg | C12(CC3CC(CC(C1)C3)C2)P(CCCC)C23CC1CC(CC(C2)C1)C3 | C24H39P
reactant | aluminum | [Al] | Al
solvent | NH4Cl | [NH4+].[Cl-]
catalyst | Pd(OAc)2 | 0.03 mmol, 7 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | water | 0.5 mL | O | H2O
solvent | toluene | 2.6 mL | C1(=CC=CC=C1)C | C7H8
product | (R)—N—((S)-1-(4-cyclopropyl-2-fluorophenyl)ethyl)-2-methylpropane-2-sulfinamide | 0.33 mmol, 116 mg, 106% yield | C1(CC1)C1=CC(=C(C=C1)[C@H](C)N[S@](=O)C(C)(C)C)F | C15H22FNOS
